US04738975
3-Methoxy-2-methyl-4(1H)-pyridone(1.39 g) and propyl iodide (2.0 ml) were dissolved in dimethylformamide (20 ml), to which silver oxide (2.31 g) was added in small portions and stirred vigorously at room temperature for 5 hours. The reaction mixture was diluted with chloroform (100 ml), washed with water, dried and evaporated. The residue was purified by flash chromatography (chloroform) on silica gel, to give 3-methoxy-2-methyl-4-propoxypyridine (1.7 g) as a light brown oil.

reactant | 3-Methoxy-2-methyl-4(1H)-pyridone | 1.39 g | COC1=C(NC=CC1=O)C | C7H9NO2
reactant | propyl iodide | 2.0 ml | C(CC)I | C3H7I
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | silver oxide | 2.31 g | [Ag]=O
product | 3-methoxy-2-methyl-4-propoxypyridine | 1.7 g | COC=1C(=NC=CC1OCCC)C | C10H15NO2
